US05663053
A mixture of 1,4,5-triphenylimidazol-2-one (15.3 g), dibromoheptane (50.6 g) and potassium carbonate (13.8 g) was heated at reflux temperature in dry butanone (750 ml) for 20 hours. The mixture was cooled, filtered and the flitrate evaporated to an oil which was chromatographed on silica gel (hexane/ethyl acetate) to give 1,4,5-triphenyl-2-(7-bromoheptyloxy)imidazole (5.0 g, 21%) as a white solid, m.p. 97°-9° C.

reactant | 1,4,5-triphenylimidazol-2-one | 15.3 g | C1(=CC=CC=C1)N1C(NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H16N2O
reactant | dibromoheptane | 50.6 g | BrC(CCC)(CCC)Br | C7H14Br2
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | butanone | 750 ml | CC(CC)=O | C4H8O
product | 1,4,5-triphenyl-2-(7-bromoheptyloxy)imidazole | 5.0 g, 21% | C1(=CC=CC=C1)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)OCCCCCCCBr | C28H29BrN2O
